US07851493B2
9.70 g 4-Methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazole-5-carboxylic acid ethyl ester were dissolved in 20 ml tetrahydrofuran and added to a ice cooled solution of 1.13 g lithium aluminium hydride in 10 ml tetrahydrofuran. The reaction mixture was stirred at 0° C. for one hour. Then 100 ml ethyl acetate and 50 ml saturated NH4Cl solution were added. The precipitate was filtered off through a celite pad and washed with ethyl acetate. The organic layer of the filtrate was separated. The aqueous layer of the filtrate was extracted two times with portions of 100 ml ethyl acetate. The combined organic layers were dried over MgSO4. The solvent was removed in vacuo and the residue purified by chromatography on silica gel with the eluent petroleum benzene:ethyl acetate=1:1 to obtain to 4.20 g {4-methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazol-5-yl}-methanol a yellow solid.

reactant | 4-Methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazole-5-carboxylic acid ethyl ester | 9.70 g | C(C)OC(=O)C1=C(N=C(O1)CCC1=CC=C(C=C1)C(F)(F)F)C | C16H16F3NO3
reactant | lithium aluminium hydride | 1.13 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | {4-methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazol-5-yl}-methanol | 4.20 g | CC=1N=C(OC1CO)CCC1=CC=C(C=C1)C(F)(F)F | C14H14F3NO2
